US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-4-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
To a slurry of 0.05 g/mL of Reike® Zn in THF (3.0 mL, 2.29 mmol) is added a solution of 5-bromo-1-methyl-1H-[1,2,4]triazole and THF (2 mL). The solution was heated at 65° C. for 1 hour, cooled to ambient temperature and the excess Zn allowed to settle for 1 hour. The solution was transferred to a flask containing 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (example Rupp-152) (0.32 g, 0.70 mmol) and PdCl2(dppf) (0.028 g, 0.038 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with sat. NH4Cl (30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (50%-100% Et2O) to furnish the title compound (0.058 g, 0.15 mmol, 19%). 1H NMR (CDCl3) δ 0.86 (t, J=7.5 Hz, 6H), 1.73-1.92 (m, 4H), 2.11 (s, 3H), 2.47 (s, 3H), 2.49 (s, 3H), 3.27-3.37 (m, 1H), 3.97 (s, 3H), 6.68 (s, 1H), 7.64 (s, 1H), 7.99 (s, 1H). LC/MS (m/z): calcd. for C21H26N6S (M+H)+: 395.2; found: 395.4.

reactant | THF | 2.29 mmol, 3.0 mL | C1CCOC1 | C4H8O
reactant | 5-bromo-1-methyl-1H-[1,2,4]triazole | BrC1=NC=NN1C | C3H4BrN3
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.70 mmol, 0.32 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.038 mmol, 0.028 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-4-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.15 mmol, 0.058 g, 19% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=C(C2C)C=2N(N=CN2)C | C21H26N6S
